US07749992B2
Step 2. Preparation of 8-Chloro-5-hydroxyimino-2,3,4,5-tetrahydro-benzo[b]azepine-1-carboxylic acid isopropyl ester
To a solution of 8-Chloro-5-oxo-2,3,4,5-tetrahydro-benzo[b]azepine-1-carboxylic acid isopropyl ester (3.40 g, 12.1 mmole) in EtOH/H2O (96.0 ml/24.0 ml) was added hydroxylamine hydrochloride (8.39 g, 121 mmole) followed by sodium acetate (9.93 g, 121 mmole). The reaction was heated under 60° C. for 3 hours. The mixture was partitioned between ethyl acetate (100 ml) and 1.00N HCl (100 ml). After separated the two layers, the aqueous layer was extracted with more acetate (2×100 ml). The combined organics washed with NaHCO3 (aq) and followed by brine (2×200 ml). Dried over Na2SO4, filtered and concentrated to provide the crude product (3.45 g, 96%), which was used directly for the next step without further purification. MS (ES+): 297 (M+H).

reactant | 8-Chloro-5-oxo-2,3,4,5-tetrahydro-benzo[b]azepine-1-carboxylic acid isopropyl ester | 12.1 mmole, 3.40 g | C(C)(C)OC(=O)N1C2=C(C(CCC1)=O)C=CC(=C2)Cl | C14H16ClNO3
reactant | hydroxylamine hydrochloride | 121 mmole, 8.39 g | Cl.NO
reactant | sodium acetate | 121 mmole, 9.93 g | C(C)(=O)[O-].[Na+]
solvent | EtOH H2O | 96.0 ml | CCO.O
product | 8-Chloro-5-hydroxyimino-2,3,4,5-tetrahydro-benzo[b]azepine-1-carboxylic acid isopropyl ester | 3.45 g, 96% | C(C)(C)OC(=O)N1C2=C(C(CCC1)=NO)C=CC(=C2)Cl | C14H17ClN2O3
